US04247549
Synthesis of 1-benzoyloxy-4-(1,1-dimethylethoxycarbonyl)piperazine.
A solution of 13 g (0.054 mole) benzoyl peroxide in 500 ml ether was added dropwise over 6 hours to a refluxing solution of 10 g (0.054 mole) 1-(1,1-dimethylethoxycarbonyl) piperazine in 500 ml ether. The solution was refluxed for 18 hours and then 0.5 g (0.0027 mole) 1-(1,1-dimethylethoxycarbonyl) piperazine in ether was added over 3 hours. The solution was stirred for 18 hours at room temperature, washed successively with 5% aqueous Na2CO3, dilute aqueous HCl, 5% aqueous Na2CO3, and H2O. The solution was dried (MgSO4), filtered, and evaporated in vacuo to give 17.3 g of solids. Recrystallization from ether-hexane gave 10.2 g off-white solid, m.p. 105°-107° C. Calc. for C16H22N2O4 (306.36): C, 62.73; H, 7.24; N, 9.14; O, 20.89. Found: C, 62.82; H, 7.01; N, 8.98; O, 21.30.

reactant | benzoyl peroxide | 0.054 mole, 13 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | 1-(1,1-dimethylethoxycarbonyl) piperazine | 0.054 mole, 10 g | CC(C)(OC(=O)N1CCNCC1)C | C9H18N2O2
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
catalyst | 1-(1,1-dimethylethoxycarbonyl) piperazine | 0.0027 mole, 0.5 g | CC(C)(OC(=O)N1CCNCC1)C | C9H18N2O2
product | 1-benzoyloxy-4-(1,1-dimethylethoxycarbonyl)piperazine | 17.3 g | C(C1=CC=CC=C1)(=O)ON1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O4
